US08871738B2
(S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one
To a stirred solution of 2-(3-bromo-4-methoxyphenyl)acetic acid (5 g, 20.40 mmol) in 60 mL THF was added TEA (3.13 mL, 22.44 mmol), and then pivaloyl chloride (2.64 mL, 21.42 mmol) at 0° C. The resulting reaction mixture was stirred at 0° C. for 30 mins. Ice bath was replaced with dry ice acetone bath. To a separate round-bottom flask was added (S)-4-benzyl-2-oxazolidinone (3.62 g, 20.4 mmol) and 50 mL THF. To this solution was added n-BuLi (12.8 mL, 20.4 mmol, 1.6 M in hexane) dropwise via a syringe at −78° C. The resulting reaction mixture was stirred −78° C. for 5 mins. This solution was transferred to the previous flask via channular transferring. After transferring, the reaction mixture was stirred at −78° C. for 30 mins and was allowed to warm up to rt. It was quenched by addition of 100 mL brine and 100 mL water. The reaction mixture was extracted with 200 mL 30% EtOAc in hexane. The organics were dried over sodium sulfate, filtered and concentrated. Crude product was purified on a Combiflash prepacked silica gel column eluted with 5% to 35% EtOAc in hexane to give 5.7 g desired product as colorless viscous material. 1H NMR (500 MHz, CDCl3): δ 7.57 (s, 1H), 7.3 (m, 4H), 7.18 (d, J=7.3 Hz, 1H), 6.92 (d, J=8.5 Hz, 1H), 4.71 (br, 1H), 4.1-4.3 (m, 4H), 3.93 (s, 3H), 3.31 (d, J=12.9 Hz, 1H), 2.81 (dd, J=9.8, 13.2 Hz, 1H).

reactant | 2-(3-bromo-4-methoxyphenyl)acetic acid | 20.40 mmol, 5 g | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | pivaloyl chloride | 21.42 mmol, 2.64 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (S)-4-benzyl-2-oxazolidinone | 20.4 mmol, 3.62 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 20.4 mmol, 1.6 M, 12.8 mL | [Li]CCCC
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one | 5.7 g | BrC=1C=C(C=CC1OC)[C@H]1CNC(OC1(C)C)=O | C13H16BrNO3
